US08426417B2
Step (e). 4-(2-amino-pyrimidin-4-yl)-2-cyano-4-oxo-butyric acid ethyl ester
Ethylcyanoacetate (5.3 mL, 0.05 mol) was added to a suspension of sodium metal (1.15 g, 0.05 mol) in 150 mL of anhydrous EtOH at 0° C. After sodium dissolution the reaction mixture was concentrated and the resultant solid was added to a solution of 1-(2-amino-pyrimidin-4-yl)-2-bromo-ethanone (15 g, 0.05 mol) in 300 mL of anhydrous THF and diisopropylethylamine (8.8 mL, 0.05 mol). The reaction mixture was stirred overnight at rt, concentrated and the residue was suspended in water and extracted with DCM. The organic extracts were dried (Na2SO4) and concentrated. The crude was purified by flash chromatography (DCM/MeOH 95:5) to give 4.5 g (37%) of the title compound as an oil.

reactant | Ethylcyanoacetate | 0.05 mol, 5.3 mL | C(C)OC(CC#N)=O | C5H7NO2
reactant | sodium | 0.05 mol, 1.15 g | [Na] | Na
reactant | 1-(2-amino-pyrimidin-4-yl)-2-bromo-ethanone | 0.05 mol, 15 g | NC1=NC=CC(=N1)C(CBr)=O | C6H6BrN3O
reactant | diisopropylethylamine | 0.05 mol, 8.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-(2-amino-pyrimidin-4-yl)-2-cyano-4-oxo-butyric acid ethyl ester | 4.5 g, 37% | C(C)OC(C(CC(=O)C1=NC(=NC=C1)N)C#N)=O | C11H12N4O3
